US08957068B2
(S)-tert-butyl (1-(2-benzoylhydrazinyl)-1-oxopropan-2-yl)carbamate
To a solution of (S)-tert-butyl (1-hydrazinyl-1-oxopropan-2-yl)carbamate (293 mg, 1.44 mmol, 1.0 equv. in 3 ml of DCM) was added benzoyl fluoride (179 mg, 1.44 mmol in 2 ml of DCM), the reaction solution was stirred at room temperature for 50 min., the solvent was removed to yield the desired product. 1H NMR (400 MHz, CDCl3) δ 7.89-7.78 (m, 2H), 7.54 (t, J=7.4 Hz, 1H), 7.43 (t, J=7.6 Hz, 2H), 5.32 (b, 1H), 4.45 (b, 1H), 1.46 (s, 9H).

reactant | (S)-tert-butyl (1-hydrazinyl-1-oxopropan-2-yl)carbamate | 1.44 mmol, 3 ml, 293 mg | N(N)C([C@H](C)NC(OC(C)(C)C)=O)=O | C8H17N3O3
reactant | benzoyl fluoride | 1.44 mmol, 2 ml, 179 mg | C(C1=CC=CC=C1)(=O)F | C7H5FO
product | (S)-tert-butyl (1-(2-benzoylhydrazinyl)-1-oxopropan-2-yl)carbamate | C(C1=CC=CC=C1)(=O)NNC([C@H](C)NC(OC(C)(C)C)=O)=O | C15H21N3O4
